US07947706B2
87 mg of solid yellow 3-{4-[3-(4-difluoromethoxyphenyl)ureido]phenyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxamide are prepared as described in Example 1 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide and 4-difluoromethoxyphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N | C14H12N4O
reactant | 4-difluoromethoxyphenyl isocyanate | FC(OC1=CC=C(C=C1)N=C=O)F | C8H5F2NO2
product | 3-{4-[3-(4-difluoromethoxyphenyl)ureido]phenyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | FC(OC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N)=O)F | C22H17F2N5O3
